US07655666B2
To a solution of N-(6-aminomethyl-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide (150 mg, 0.43 mmol) in conc. CH3CO2H (10 mL) was added 2-methyl-2,5-dimethoxytetrahydrofurane (62.2 mg, 0.43 mmol) and the reaction mixture was stirred for 2 h at reflux temperature. Subsequently, the solvent was evaporated and the crude light-yellow residue was recrystallized from EtOAc/cyclohexane to yield N-[6-(2-methyl-pyrrol-1-ylmethyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide (130 mg, 0.312 mmol, 73%) as a light-orange solid. 1H-NMR (DMSO-d6, 400 MHz) 3.11 ppm (s, 3H, SO2—CH3; LC-MS rt=3.994 mn; MS: m/z 416.9 [M+H]+ Column: SunFireC18, 4.6*50 mn, 3.5 um; Positive MS Water/Acetonitrile 95:5 to 5:95 in 5 min, Flow: 1.5 mL/min

reactant | N-(6-aminomethyl-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 0.43 mmol, 150 mg | NCC=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C11H11F3N4O4S
reactant | 2-methyl-2,5-dimethoxytetrahydrofurane | 0.43 mmol, 62.2 mg | CC1(OC(CC1)OC)OC | C7H14O3
solvent | CH3CO2H | 10 mL | CC(=O)O | C2H4O2
product | N-[6-(2-methyl-pyrrol-1-ylmethyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 0.312 mmol, 130 mg, 73% | CC=1N(C=CC1)CC=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C16H15F3N4O4S
